* 2 to 1 switch with selection
* sel=1  selects in1
* sel=2  selects in2
*
*             in1
*              | in2
*              | | out
*              | | | 
*              | | | 
*              | | | 
*              | | |
.subckt sw_2_1 1 2 3 sel={sel}
.param sel=1 ; default
S1 1 3  11 0 My_sw21
S2 2 3  12 0 My_sw21
B1 11 0 V=IF({sel}<1.5, 1, -1)
B2 12 0 V=IF({sel}>=1.5, 1, -1)
.model My_sw21 SW(Ron=.01 Roff=1e10 Vt=0)
.ENDS sw_2_1
